Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year-old woman with CAD s/p CABG, DM, 
prior CVA, and moderate dementia who is sent in by her PCP for 
evaluation of weakness and unsteady gait.  
.  
She was in her usual state of health at her assisted living 
until two days ago when she had an unwitnessed fall. Per report, 
there was no head trauma, but it was unclear whether the fall 
was mechanical or of another etiology, and she does not recall 
it. During this period, she has also had increasing weakness. 
She normally is able to walk with her walker but was unable to 
do so on the day of presentation and had been confined to a 
wheelchair. She was seen by her PCP who noted ___ BP of 90/50 and 
concentrated urine, and she was sent to the ED. She denied 
fevers, chills, chest pain, and dyspnea. Of note, she was 
started on Namenda 3 weeks ago and is now on day 6 of the third 
week of the titration pack (15 mg daily). No other recent change 
in her medications.  
.  
In the ED, initial vs were: 97.8 65 119/48 16 98ra. Her exam was 
notable for poor memory, decreased left-sided strength, and 
weakness, with difficulty sitting up in bed. EKG was nsr with no 
acute changes, and a head CT was negative. She was given her 
home medications, metoprolol and metformin, and also given 1L NS 
because she appeared dry.  
.  
 
Past Medical History:
1. Hyperlipidemia. On Lipitor.  
2. Type 2 diabetes. HbA1C ___.  
3. Hypertension, treated with lisinopril.  
4. Osteopenia, history of fracture. Fosamax without  
complaints.  
5. Status post CVA, ___. Right cerebral artery CVA, embolism.  
Recent increasing left-sided weakness, walker. Negative MRA.  
6. Bladder urgency treated with Imipramine. History of  
recurrent UTI on abx prophylaxis.  
7.? Neuropathy, left leg pain.  
8. GERD, treated with Prevacid.  
9. Recurrent falls. Has had mild injuries in the past  
including  
rib fractures. No recent falls.  
10. Short-term memory disorder. ?Age related versus Alzheimer's. 
 
11. History of mildly abnormal liver function.  
12: ___ Coronary Artery Bypass Graft x 4 (Left internal 
mammary  
artery to left anterior descending, Saphenous vein graft to  
Diagonal, Saphenous vein graft to Ramus, Saphenous vein graft to 
 
Obtuse Marginal)  
13. Iron deficiency anemia  

 
Social History:
___
Family History:
  
Family History: (per last discharge summary)  
Father had afib and CVA in ___.  
Two cousins with colon cancer.  

 
Physical Exam:
On admission:
97.8 65 160/70 16 98ra  
General: nad  
HEENT: Sclera anicteric, dry MM  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ upper extremity weakness as compared to ___ right 
sided UE strength, ___ bilateral ___ strength. a/o to person, 
place, year  

On discharge:
VS:97.4  60  160/63  20  94% on RA
Gen: Resting comfortably, NAD
HEENT: Sclera anicteric, MMM, OP clear,   
Neck: supple, no JVD, no cervical LAD  
Lungs: CTAB, no wheezes, rales, ronchi, good air movement
CV: RRR, normal S1 + S2, no M/R/G   
Abdomen: soft, non-tender, non-distended, +BS, no masses  
Ext: Warm, well perfused, 2+ pulses, no clubbing, no cyanosis or 
edema  
Neuro: AOx3, ___ LUE weakness as compared to ___ RUE, ___ 
bilateral ___ strength. Sensation intact to light touch 
throughout. CN II-XII intact.
 
Pertinent Results:
Labs on Admission:
___ 03:49PM BLOOD WBC-10.0 RBC-4.42 Hgb-12.8 Hct-39.3 
MCV-89 MCH-29.0 MCHC-32.6 RDW-14.1 Plt ___
___ 03:49PM BLOOD Neuts-73.4* ___ Monos-4.5 Eos-2.2 
Baso-0.7
___ 03:49PM BLOOD ___ PTT-21.1* ___
___ 03:49PM BLOOD Glucose-146* UreaN-31* Creat-1.4* Na-143 
K-5.5* Cl-106 HCO3-23 AnGap-20
___ 03:49PM BLOOD ALT-17 AST-16 LD(LDH)-167 AlkPhos-59 
TotBili-0.3
___ 06:50AM BLOOD Calcium-9.5 Phos-3.5 Mg-1.7
___ 03:49PM BLOOD Albumin-4.7
___ 03:49PM BLOOD VitB12-585
___ 03:49PM BLOOD TSH-2.4

Imaging: 
CXR: Small patchy opacity adjacent to the cardiac apex is most 
compatible with mild atelectasis, however, an early developing 
pneumonia can be considered in the appropriate clinical setting. 


CT-Head: There is no evidence of acute intracranial hemorrhage, 
edema, mass, mass effect or large vascular territorial 
infarction. The ventricles and sulci are enlarged, compatible 
with diffuse cortical atrophy, unchanged since the ___ study. A focal area of encephalomalacia is redemonstrated 
within the right cerebellar hemisphere. Periventricular white 
matter hypodensities are compatible with microvascular ischemic 
disease. A hypodense focus within the right basal ganglia is 
chronic. Included views of the paranasal sinuses and mastoid air 
cells are clear. 

Discharge Labs:

___ 06:50AM BLOOD WBC-7.2 RBC-4.54 Hgb-13.6 Hct-40.7 MCV-90 
MCH-29.9 MCHC-33.4 RDW-14.2 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-162* UreaN-27* Creat-0.9 Na-140 
K-4.5 Cl-105 HCO3-22 AnGap-18
___ 06:35AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
Mrs. ___ presented on ___ with a two day history of 
weakness in the setting of moderate dementia, type two diabetes, 
CAD (s/p 4v CABG in ___, and multiple recent mechanical falls. 


## Weakness: The patient lives in assisted living and was 
reported to be able walk with a walker at baseline but had 
become progressively unstable on her feet with difficulty 
getting in and out of a sitting position over the two days prior 
to admission. Over this time she also noted poor PO intake. In 
the ED, initial vs were: 97.8 65 119/48 16 98ra. Her exam was 
notable for poor memory, decreased left-sided strength (stable 
from distant CVA), no pain anywhere, clear lungs, and weakness 
with difficulty sitting up in bed. EKG was nsr with no acute 
changes, and a head CT was negative. UA was benign and labs were 
notable for acute renal insufficiency. She was given 1L NS IVF 
with prompt resolution of her renal insufficiency, suggesting 
dehydration in the setting of poor PO intake as the likely 
etiology. Following IVF hydration the patient reported feeling 
significantly improved. ___ evaluated the patient and felt she 
was significantly deconditioned and would benefit from ___ 
rehabilitation to improve endurance, stability, and transfer 
from chair to standing. 
.
## Dementia: The patient has moderate dementia (age related vs. 
Alzheimer's) with preservation of distant memory. She has been 
uptitrating on Namenda (5mg po daily for 7 days then 5BID for 7 
days then 15mg po daily split into 10 and 5mg dosing for 6 days) 
prior to admission. This was held for two days as an inpatient 
out of concern that it may have contributed to a sense of 
dizziness/weakness. On ___ the patient was restarted on her 
Namenda, 15mg po daily .  She will complete her uptitration by 
starting 10mg PO daily on ___.
.
## Type two diabetes: The patient was treated with HISS as an 
inpatient and oral hyperglycemics were held as an inpatient with 
adequate glucose control. On ___ she was resumed on her home 
oral hyperglyceic regimen prior to discharge.
.
## .  
#. CAD s/p CABG: Ruled out for MI with two negative sets of 
enzymes. No active issues of chest pain.  Continued on 
lisinopril, metoprolol, simvastatin, aggrenox/aspirin. 
.  
# Hyperlipidemia:  
Continued on outpatient atorvastatin.  
.  
# History of cerebrovascular accident: With residual left sided  

weakness .  continued on continue ASA/Aggrenox, simvastatin.  
.  
# Osteopenia:  Continued weekly fosamax, Ca, vit D 
supplementation.  
.  
# GERD: Continued omeprazole.  
.  

# Chronic UTIs:  Per patient's PCP she was continued on 
cephalexin daily for prophylaxis.
 
Medications on Admission:
ALENDRONATE - 70 mg Tablet - 1 Tablet(s) by mouth q wk  
AMLODIPINE - 5 mg Tablet - ONE Tablet(s) by mouth once a day  
CEPHALEXIN - 250 mg Capsule - 1 Capsule(s) by mouth once a day  
DIPYRIDAMOLE-ASPIRIN [AGGRENOX] - 25 mg-200 mg Cap, Multiphasic 
Release 12 hr - 1 Cap(s) by mouth twice a day  
DONEPEZIL [ARICEPT] - (Prescribed by Other Provider) (On Hold 
from ___ to unknown for dizziness, neuropsych) - 5 mg 
Tablet - 1 Tablet(s) by mouth every other day  
GLIPIZIDE - 10 mg Tablet - 2 Tablet(s) by mouth twice a day  
LISINOPRIL - 40 mg Tablet - 1 Tablet(s) by mouth once a day  
MEMANTINE [NAMENDA TITRATION PAK] - 5 mg (28)-10 mg (21) 
Tablets, Dose Pack - 1 Tablets(s) by mouth once a day as 
directed  
METFORMIN - 1,000 mg Tablet - 1 Tablet(s) by mouth B.i.d.  
METOPROLOL TARTRATE - 100 mg Tablet - 1 Tablet(s) by mouth twice 
a day  
MULTIVITAMINS - - 1 qd  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - one Capsule, 
Delayed Release(E.C.)(s) by mouth once a day  
ONDANSETRON [ZOFRAN ODT] - 8 mg Tablet, Rapid Dissolve - 1 
Tablet(s) by mouth twice a day as needed for nausea  
PHENAZOPYRIDINE - 200 mg Tablet - 1 Tablet(s) by mouth three 
times a day as needed for prn UTI  
SIMVASTATIN - 20 mg Tablet - one Tablet(s) by mouth once a day  
 
Medications - OTC  
ASCORBIC ACID - (Prescribed by Other Provider) - 500 mg Capsule, 
Sustained Release - 1 Capsule(s) by mouth twice a day  
ASPIRIN - (OTC) - 81 mg Tablet, Delayed Release (E.C.) - 1 
Tablet(s) by mouth DAILY (Daily)  
CALCIUM CITRATE-VITAMIN D3 [CALCIUM CITRATE + D] - 315 mg-200 
unit Tablet - 2 Tablet(s) by mouth Twice Daily  
FERROUS SULFATE - (OTC) - 325 mg (65 mg Iron) Tablet - 1 
Tablet(s) by mouth every other day  
--------------- 
 
Discharge Medications:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

2. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
3. Glipizide 10 mg Tablet Sig: Two (2) Tablet PO twice a day.  
4. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 
6. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
7. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: Two (2) Tablet, 
Rapid Dissolve PO twice a day as needed for n/v.  
10. Phenazopyridine 200 mg Tablet Sig: One (1) Tablet PO three 
times a day as needed for UTI.  
11. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO twice a 
day.  
13. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Calcium Citrate-Vitamin D3  Oral
15. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO every other day.  
16. Cephalexin 250 mg Tablet Sig: One (1) Tablet PO once a day.  

17. Memantine 5 mg Tablet Sig: Two (2) Tablet PO QAM (once a day 
(in the morning)) for 1 days.  
18. Memantine 5 mg Tablet Sig: One (1) Tablet PO QPM (once a day 
(in the evening)) for 1 days.  
19. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
20. Cephalexin 250 mg Capsule Sig: One (1) Capsule PO Q24H 
(every 24 hours).  
21. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
22. Memantine 10 mg Tablet Sig: One (1) Tablet PO twice a day: 
PLEASE START on ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Acute renal failure

Secondary Diagnoses: Dementia, hypertension, hyperlipidemia, 
type two diabetes mellitus, history of coronary artery disease 
and stroke.

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mrs. ___, it was a pleasure caring for you at the ___ 
___. You were admitted for weakness 
that had developed over the course of two days following a 
recent fall. In the Emergency Room your vital signs were stable 
and you did not have a fever. A CT scan of your head did not 
show any bleeding or fractures. A chest x-ray showed no clear 
sign of pneumonia or infection. Urine analysis showed no sign of 
urinary tract infection. Lab tests on your blood suggested you 
were moderately dehydrated and this seemed to be affecting your 
kidney function. You were treated with IV fluids and your lab 
values returned to normal ranges while you appeared to 
clinically feel better. The physical therapists saw you and felt 
you were too weak to return to your home at ___. You 
were therefore discharged to a rehabilitation facility.

Medication Changes*:

Increased Amlodipine 10 mg by mouth daily

* Note that we stopped Namenda for 2 days given concern that 
this could be contributing to your unsteadiness. Restarted on 
___, please resume titration schedule as directed.
 
Followup Instructions:
___